US07981874B2
4-[(Dimethoxy-phosphoryl)fluoro-methyl]-benzoic acid benzyl ester.
4-[(Dimethoxy-phosphoryl)-hydroxy-methyl]-benzoic acid benzyl ester (0.20 g, 0.22 mmol) was added over 30 mins to a stirring solution of DAST (1M in CH2Cl2) cooled to −78° C. under a dry nitrogen environment. The mixture was warmed to RT and stirred for 18 hours. The reaction mixture was then quenched with ethanol containing pyridine (pyr: twice volume of DAST). After another 30 mins the mixture was poured into ice cold water and extracted into DCM (3×). The combined organic extracts were washed with dilute aq HCl, water, brine, dried (MgSO4) then concentrated in vacuo. The residue was purified by HPLC (20-85% MeCN in Water w/0.025% TFA) to afford the title compound: MS: cal'd 353 (MH+), exp 353 (MH+)

reactant | 4-[(Dimethoxy-phosphoryl)-hydroxy-methyl]-benzoic acid benzyl ester | 0.22 mmol, 0.20 g | C(C1=CC=CC=C1)OC(C1=CC=C(C=C1)C(O)P(=O)(OC)OC)=O | C17H19O6P
reactant | DAST | 1M | CCN(CC)S(F)(F)F | C4H10F3NS
product | 4-[(Dimethoxy-phosphoryl)fluoro-methyl]-benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=CC=C(C=C1)C(F)P(=O)(OC)OC)=O | C17H18FO5P
